US06730670B2
N-(4-Methoxy-7-phenyl-benzo[b]thiophen-2-yl)-6-methyl-nicotinamide
A solution of (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine (100 mg, 0.392 mmol) in THF (8 ml) and diethylisopropyl amine (0.147 ml, 2.2 eq.) was stirred together at −10° C. under an argon atmosphere. To this was slowly added 6-methyl-nicotinyl chloride hydrochloride (83 mg, 0.431 mmol, 1.1 eq) in dichloromethane (5 ml) and the mixture stirred to 20° C. overnight. The reaction was again cooled to 0° C. and Methanol was then added (1.2 ml) and the mixture stirred for 30 min to 20° C. The mixture was then evaporated to dryness and chromatographed over silica gel eluting with a gradient of heptane/EtOAc (1:1 to 1:8). The product fractions were pooled and evaporated to afford the title compound (83 mg, 57% yield) as a yellow solid MS: m/e=375.4 (M+H+).

reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine | 0.392 mmol, 100 mg | COC1=CC=C(C=2SC(=CC21)N)C2=CC=CC=C2 | C15H13NOS
reactant | diethylisopropyl amine | 0.147 ml, 2.2 eq. | C(C)N(C(C)C)CC | C7H17N
reactant | 6-methyl-nicotinyl chloride hydrochloride | 0.431 mmol, 83 mg, 1.1 eq | Cl.CC1=NC=C(CCl)C=C1
reactant | Methanol | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(4-Methoxy-7-phenyl-benzo[b]thiophen-2-yl)-6-methyl-nicotinamide | 83 mg, 57% yield | COC1=CC=C(C=2SC(=CC21)NC(C2=CN=C(C=C2)C)=O)C2=CC=CC=C2 | C22H18N2O2S
